US04710573
6-Fluoro-3-[1(1-propyl)-4-piperidinyl]-1H-indazole
A mixture of 3.0 g of 6-fluoro-3-(4-piperidinyl)-1H-indazole, 1.8 g of 1-bromopropane, 2.5 g of sodium bicarbonate and 30 ml of dimethylformamide was stirred and heated at 60° for 2 hr. After stirring at ambient temperature for 14 hr, the reaction was poured into water and the aqueous suspension was extracted with ethyl acetate. The ethyl acetate was washed with water, dried over anhydrous magnesium sulfate and the solvent was removed in vacuo. Recrystallization of the residue from ethyl acetate yielded 2.3 g (63%) of product. This material was combined with a sample from another experiment and recrystallized from ethyl acetate to yield the analytical sample, mp 175°-177° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1H-indazole | 3.0 g | FC1=CC=C2C(=NNC2=C1)C1CCNCC1 | C12H14FN3
reactant | 1-bromopropane | 1.8 g | BrCCC | C3H7Br
reactant | sodium bicarbonate | 2.5 g | C([O-])(O)=O.[Na+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-Fluoro-3-[1(1-propyl)-4-piperidinyl]-1H-indazole | 2.3 g, 63% | FC1=CC=C2C(=NNC2=C1)C1CCN(CC1)CCC | C15H20FN3
